US05604229
Decane bromide (7.0 g) and 10 g of triphenylphosphine were stirred at 120° C. under a nitrogen atmosphere for 8 hours. The mixture was recrystallized from acetone-ether to give 14.4 g of colorless, crystalline decyltriphenylphosphonium bromide. IRν max (CHCl3): 2920, 2850, 1440, 1120, 1000, 680 cm-1

reactant | Decane bromide | 7.0 g | [Br-].CCCCCCCCCC
reactant | triphenylphosphine | 10 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | decyltriphenylphosphonium bromide | [Br-].C(CCCCCCCCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C28H36P.BrH/c1-2-3-4-5-6-7-8-18-25-29(26-19-12-9-13-20-26,27-21-14-10-15-22-27)28-23-16-11-17-24-28;/h9-17,19-24H,2-8,18,25H2,1H3;1H/q+1;/p-1
